US04736057
A stirred solution of 4,4-dimethylcyclohexanone (1 g.), p-toluene sulphonic acid monohydrate (23 mg.) and thiophenol (0.81 ml.) in toluene (24 ml.) was heated at reflux for 9 hours with azeotropic removal of water using a Dean and Stark apparatus. The mixture was cooled, diluted with toluene (25 ml.) and extracted with saturated sodium bicarbonate solution (2×10 ml.), washed with water (3×10 ml.) and dried (MgSO4). Evaporation of the solvent gave (4,4-dimethylcyclohex-1-enyl)phenylsulphide as an oil (1.66 g.); NMR (CDCl3,90 MHz): 0.94 (6H,s), 1.45 (2H,t), 1.98 (2H,m), 2.18 (2H,m), 6.02 (1H,m) and 7.3 (5H,m).

reactant | 4,4-dimethylcyclohexanone | 1 g | CC1(CCC(CC1)=O)C | C8H14O
reactant | p-toluene sulphonic acid monohydrate | 23 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | thiophenol | 0.81 ml | C1(=CC=CC=C1)S | C6H6S
reactant | water | O | H2O
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (4,4-dimethylcyclohex-1-enyl)phenylsulphide | CC1(CC=C(CC1)SC1=CC=CC=C1)C | C14H18S
